US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.047 g, 0.295 mmol) was reacted with 2-azidomethyl-5,6-dimethyl-1H-benzimidazole (0.071 g, 0.354 mmol) following the general procedure for click reactions outlined above to produce 4-[1-(5,6 Dimethyl-1H-benzoimidazol-2-ylmethyl)-1H-[1,2,3]triazol-4-ylmethyl]-1H-imidazol-2-ylamine dihydrochloride (0.029 g, 25%) of a yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.09 (s, 1H), δ 7.45 (s, 2H), δ 6.52 (s, 1H), δ 6.08 (s, 2H), δ 3.93 (s, 2H), δ 2.35 (s, 6H) ppm; 13C (75 MHz, CD3OD) δ 142.2, 136.9, 136.6, 124.5, 124.3, 113.8, 113.4, 110.0, 100.4, 85.8, 80.6, 75.3, 74.1, 45.0, 20.9, 19.28 ppm; HRMS (ESI) calcd for C16H18N8 (M+) 323.1727. found 323.1734.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.295 mmol, 0.047 g | Cl.C(C#C)C=1N=C(NC1)N
reactant | 2-azidomethyl-5,6-dimethyl-1H-benzimidazole | 0.354 mmol, 0.071 g | N(=[N+]=[N-])CC1=NC2=C(N1)C=C(C(=C2)C)C | C10H11N5
product | 4-[1-(5,6 Dimethyl-1H-benzoimidazol-2-ylmethyl)-1H-[1,2,3]triazol-4-ylmethyl]-1H-imidazol-2-ylamine dihydrochloride | 0.029 g, 25% | Cl.Cl.CC1=CC2=C(NC(=N2)CN2N=NC(=C2)CC=2N=C(NC2)N)C=C1C | InChI=1S/C16H18N8.2ClH/c1-9-3-13-14(4-10(9)2)21-15(20-13)8-24-7-12(22-23-24)5-11-6-18-16(17)19-11;;/h3-4,6-7H,5,8H2,1-2H3,(H,20,21)(H3,17,18,19);2*1H
